US09212182B2
Intermediate DW: tert-butyl 3-((3′,5′,6-trifluoro-4-(6-(N-(isoxazol-3-yl)-N-(4-methoxybenzyl)sulfamoyl)-2-oxoquinolin-1(2H)-yl)-[1,1′-biphenyl]-3-yl)oxy)azetidine-1-carboxylate
N-boc-3-iodoazetidine (0.076 ml, 0.268 mmol) was added to a solution of N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1-(2,3′,5′-trifluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide (0.085 g, 0.134 mmol) and cesium carbonate (0.087 g, 0.268 mmol) in acetonitrile (0.335 ml) and stirred over night. LCMS indicated that the reaction was complete (mass—Boc group). The resulting mixture was transferred to a sep. funnel containing water and the aqueous layer was washed 3× with DCM. The organic layers were combined, dried with MgSO4, filtered and concentrated to an oil. The yield was assumed to be quantitative and taken directly on to the next step. m/z (ESI) 691.0 (M+1-Boc)+.

reactant | N-boc-3-iodoazetidine | 0.268 mmol, 0.076 ml | C(=O)(OC(C)(C)C)N1CC(C1)I | C8H14INO2
reactant | N-(isoxazol-3-yl)-N-(4-methoxybenzyl)-2-oxo-1-(2,3′,5′-trifluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)-1,2-dihydroquinoline-6-sulfonamide | 0.134 mmol, 0.085 g | O1N=C(C=C1)N(S(=O)(=O)C=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1O)C1=CC(=CC(=C1)F)F)F)=O)CC1=CC=C(C=C1)OC | C32H22F3N3O6S
reactant | cesium carbonate | 0.268 mmol, 0.087 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | acetonitrile | 0.335 ml | C(C)#N | C2H3N
product | tert-butyl 3-((3′,5′,6-trifluoro-4-(6-(N-(isoxazol-3-yl)-N-(4-methoxybenzyl)sulfamoyl)-2-oxoquinolin-1(2H)-yl)-[1,1′-biphenyl]-3-yl)oxy)azetidine-1-carboxylate | FC=1C=C(C=C(C1)F)C1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(N(CC1=CC=C(C=C1)OC)C1=NOC=C1)(=O)=O)=O)OC1CN(C1)C(=O)OC(C)(C)C | C40H35F3N4O8S
